US05814653
6-(phenylacetyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.4 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 8.1 μL (0.051 mMol) phenylacetyl chloride, 13.6 mg (85%) of the title compound were recovered as a grey-brown solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.4 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | phenylacetyl chloride | 0.051 mMol, 8.1 μL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 6-(phenylacetyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 13.6 mg, 85% | C1(=CC=CC=C1)CC(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C22H25N3O
